US03978064
G. 3-aminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester
A reaction mixture comprising 58.5 g. of 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester and 58.5 g. of ammonium acetate in 730 ml. of ethanol is heated to reflux for 10 min. The mixture is cooled to 40°C. and concentrated to a yellow solid. The residue is taken up in 800 ml. of chloroform which is subsequently washed successively with water (1 × 450 ml.), 1N aqueous sodium hydroxide (2 × 450 ml.) and a brine solution (1 × 450 ml.). The chloroform layer is separated, dried over magnesium sulfate and concentrated to a yellow solid, 87.0 g., m.p. 86°-150°C. The crude product is further purified by recrystallization from ethyl acetate-hexane, 43.3 g., m.p. 160°-161°C.

reactant | 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | OC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C16H19NO6
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 3-aminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | NC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C16H20N2O5
